US08877772B2
Preparation of N-{4-[5-(3,4,5-Trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide
N-{-4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide (Intermediate CC, 24 mg, 0.048 mmol), 3,4,5-trimethoxyphenyl boronic acid (13 mg, 0.058 mmol) and dichlorobis(triphenylphosphine)palladium (II) (2 mg, 0.002 mmol) were combined in CH3CN (1 ml) and 1 M Na2CO3 (2 ml) and heated in a microwave reactor at 150° C. for 20 min. EtOAc was added, washed with water, dried and purified by silica gel chromatography eluting with 0-4% MeOH:DCM to give 11 mg (53%) of the title compound. MS ESI (m/z): 432.2 (M+1)+, calc. 431.

reactant | N-{-4-[5-Bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide | 0.048 mmol, 24 mg | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(CNC(C)=O)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C23H20BrN3O3S
reactant | 3,4,5-trimethoxyphenyl boronic acid | 0.058 mmol, 13 mg | COC=1C=C(C=C(C1OC)OC)B(O)O | C9H13BO5
reactant | Na2CO3 | 1 M, 2 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | CH3CN | 1 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.002 mmol, 2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-{4-[5-(3,4,5-Trimethoxy-phenyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzyl}-acetamide | 11 mg, 53% | COC=1C=C(C=C(C1OC)OC)C=1C=C2C(=NC1)NC=C2C2=CC=C(CNC(C)=O)C=C2 | C25H25N3O4
